US04307094
In a manner analogous to that described in Example 1(D), from 3,5-dioxo-1,2,4-triazolidine-4-propionic acid, prepared as described in Example 2(C) and hexa-2,4-dienoic acid, there was obtained in 76% yield 5-carboxy-2,3,5,8-tetrahydro-8-methyl-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-2-propionic acid of melting point 184°-186° C. (from acetonitrile).

reactant | 3,5-dioxo-1,2,4-triazolidine-4-propionic acid | O=C1NNC(N1CCC(=O)O)=O | C5H7N3O4
reactant | hexa-2,4-dienoic acid | C(C=CC=CC)(=O)O | C6H8O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-carboxy-2,3,5,8-tetrahydro-8-methyl-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-2-propionic acid | 76% yield | C(=O)(O)C1N2N(C(C=C1)C)C(N(C2=O)CCC(=O)O)=O | C11H13N3O6
